US08110575B2
Step 1: ethyl 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylate
0.10 g (0.55 mmol) ethyl 6-chloropyrimidine-4-carboxylate and 13 μL (50 μmol) 4M HCl were added to 0.16 g (0.60 mmol) 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one in 1.0 mL 2-propanol. The reaction mixture was refluxed for 2 h, then cooled to RT and the resulting solid was filtered off and dried.

reactant | ethyl 6-chloropyrimidine-4-carboxylate | 0.55 mmol, 0.10 g | ClC1=CC(=NC=N1)C(=O)OCC | C7H7ClN2O2
reactant | HCl | 50 μmol, 4M, 13 μL | Cl | ClH
reactant | 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.60 mmol, 0.16 g | NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | ethyl 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylate | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)OCC | C22H19N5O3
